US09331290B2
A solution of 15.1 g (100 mmol) of 6-tert-butylpyrimidin-4-ylamine [3435-27-6] and 24.4 g (100 mmol) of 2-bromo-1-(2-nitrophenyl)ethanone [6851-99-6] in 300 ml of ethanol is heated under reflux for 8 h. The solvent is removed in vacuo, the residue is taken up in 200 ml of water, the mixture is rendered alkaline by addition of 2 N NaOH, the aqueous phase is extracted three times with 100 ml of dichloromethane each time, the organic phase is washed once with 100 ml of saturated sodium chloride solution, and the dichloromethane is removed in vacuo. The oily residue is dissolved in 500 ml of ethanol, 112.8 g (500 mmol) of tin(II) chloride dihydrate are added, and the mixture is heated under reflux for 2 h. After cooling, the reaction mixture is poured into 1000 ml of ice-water, the mixture is rendered weakly alkaline by addition of saturated sodium hydrogencarbonate solution, 500 ml of ethyl acetate are added, the mixture is filtered through a short Celite bed, the organic phase is separated off, washed once with 300 ml of water and once with 300 ml of saturated sodium chloride solution, and the solvent is then removed in vacuo. The 2-(7-tert-butylimidazo[1,2-c]pyrimidin-2-yl)phenylamine obtained in this way is reacted further as described in Example 1 with 42.1 g (500 mmol) of 2,2-dimethylpropanal [630-19-3] and 1.9 g (10 mmol) of p-toluenesulfonic acid hydrate. Yield: 9.0 g (27 mmol), 27%, purity: about 99.5% (NMR).

reactant | 6-tert-butylpyrimidin-4-ylamine | 100 mmol, 15.1 g | C(C)(C)(C)C1=CC(=NC=N1)N | C8H13N3
reactant | 2-bromo-1-(2-nitrophenyl)ethanone | 100 mmol, 24.4 g | BrCC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | tin(II) chloride dihydrate | 500 mmol, 112.8 g | O.O.[Sn](Cl)Cl
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 2-(7-tert-butylimidazo[1,2-c]pyrimidin-2-yl)phenylamine | C(C)(C)(C)C1=CC=2N(C=N1)C=C(N2)C2=C(C=CC=C2)N | C16H18N4
